### PR TITLE
feat(RingTheory/IntegralClosure): integer powers of integral elements are integral

### PR DESCRIPTION
**Pull request by stalex444**
This PR adds IsIntegral.zpow and its subalgebra-membership analogs (zpow_mem, zpow_mem_adjoin, Algebra.IsIntegral.zpow_mem), generalizing the existing inv lemmas from the −1 power to all integer powers.

This Lean code was drafted with the help of AI (Claude Code), I reviewed it and built it locally against the current master.

---

Happy to adjust the placement or the type-variable names.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by stalex444** [comment]
LLM-generated

**Comment by SnirBroshi** [comment]
Hey, could you trim the description a bit? It's longer than the code diff, and contains some redundant info (e.g. repeats the title, and the trivial proof)

File: Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean [hunk 1]
```diff
@@ -225,6 +225,14 @@ theorem IsIntegral.pow {x : B} (h : IsIntegral R x) (n : ℕ) : IsIntegral R (x
   .of_mem_of_fg _ h.fg_adjoin_singleton _ <|
     Subalgebra.pow_mem _ (by exact Algebra.subset_adjoin rfl) _
 
+/-- An integer power of an integral element of a division ring over a field is integral;
+this generalizes `IsIntegral.inv` (the case `n = -1`) to all integer exponents. -/
```
Comment (SnirBroshi) [inline Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean]: This seems overly verbose
```suggestion
/-- An integer power of an integral element in a division ring over a field is integral. -/
```

File: Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean [hunk 2]
```diff
@@ -225,6 +225,14 @@ theorem IsIntegral.pow {x : B} (h : IsIntegral R x) (n : ℕ) : IsIntegral R (x
...
+theorem IsIntegral.zpow {F D : Type*} [Field F] [DivisionRing D] [Algebra F D] {x : D}
+    (int : IsIntegral F x) (n : ℤ) : IsIntegral F (x ^ n) := by
+  obtain ⟨m, rfl | rfl⟩ := n.eq_nat_or_neg
+  · rw [zpow_natCast]; exact int.pow m
+  · rw [zpow_neg, zpow_natCast]; exact (int.pow m).inv
```
Comment (SnirBroshi) [inline Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean]:
```suggestion
    (h : IsIntegral F x) (n : ℤ) : IsIntegral F (x ^ n) := by
  cases n <;> simp [h.pow, IsIntegral.inv]
```

**Comment by SnirBroshi** [comment]
Could you add `zpow` versions of the other `inv` theorems? (`IsIntegral.inv_mem_adjoin` / `IsIntegral.inv_mem` / `Algebra.IsIntegral.inv_mem` / `IsIntegral.mem_of_inv_mem`)

File: Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean (hunk 1 above)
Comment (stalex444) [reply Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean]: Thank you. I have applied both suggestions (trimmed the docstring and shortened the proof) and pushed.

**Comment by stalex444** [comment]
Hi, I only saw one of your comments earlier. Apologies The new version added the three that generalize: IsIntegral.zpow_mem, IsIntegral.zpow_mem_adjoin, Algebra.IsIntegral.zpow_mem. The fourth, mem_of_inv_mem, doesn't have a clean zpow analog — x^n ∈ A doesn't force x ∈ A once |n| ≥ 2 (e.g. A = F[x²] contains x² but not x).

**Comment by stalex444** [comment]
@SnirBroshi -- I left out a zpow analog of mem_of_inv_mem because that lemma is really inv_mem composed with inv_inv — it works precisely because inv is an involution, and y ↦ y ^ n isn't one for |n| ≥ 2. Concretely, √2 is integral over ℚ with (√2) ^ 2 = 2 ∈ ⊥ but √2 ∉ ⊥.

The nearest true statement needs two exponents: x ^ m ∈ A and x ^ n ∈ A with gcd(m, n) = 1 gives x ∈ A by Bézout, recovering mem_of_inv_mem at m = -1. Happy to add it if you'd like, though it seemed like a different lemma rather than a zpow version, so I left it out of this PR.

**Comment by stalex444** [comment]
I’ve merged master, addressed the requested changes, and resolved the review conversations. All CI checks now pass. Ready for another look when convenient—thank you!
